US04891363
dl-trans-2-[2,8-Bis(tetrahydropyran-2-yloxy)octyloxymethyl]tetrahydropyran-3-ol
1.46 ml of a 1M borane-tetrahydrofuran complex was added dropwise, whist ice-cooling, to a solution of 0.934 g of 6-[2,8-bis(tetrahydropyran-2-yloxy)octyloxymethyl]-3,4-dihydro-2H-pyran (prepared as described in Preparation 73) in 3 ml of tetrahydrofuran. The mixture was then stirred at room temperature for 4.5 hours. At the end of this time, 0.80 ml of a 10% w/v aqueous solution of sodium hydroxide and 0.60 ml of a 30% v/v aqueous solution of hydrogen peroxide were added, in turn, to the mixture at 30° to 40° C., and then the mixture was stirred at room temperature for a further 1 hour. The reaction mixture was then diluted with 50 ml of water and extracted twice with ethyl acetate. The combined extracts were washed with water, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure, to give a residue, which was purified by column chromatography through 20 g of silica gel and by medium pressure liquid chromatography using a Lobar B column. 0.615 g of the title compound was obtained, as a colorless oil, from the fractions euted with a 7:3 by volume mixture of hexane and ethyl acetate.

reactant | 6-[2,8-bis(tetrahydropyran-2-yloxy)octyloxymethyl]-3,4-dihydro-2H-pyran | 0.934 g | O1C(CCCC1)OC(COCC1=CCCCO1)CCCCCCOC1OCCCC1 | C24H42O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | trans-2-[2,8-Bis(tetrahydropyran-2-yloxy)octyloxymethyl]tetrahydropyran-3-ol | 0.615 g | O1C(CCCC1)OC(COC[C@@H]1OCCC[C@H]1O)CCCCCCOC1OCCCC1 | C24H44O7
